US08372807B2
To a mixture of sodium hydroxide (114 mg, 2.9 mmol) in water (0.5 mL) was added 1-(naphthalen-1-yl)-1H-tetrazole-5-thiol (490 mg, 2.2 mmol) and ethanol (5 mL). The reaction mixture was then cooled to 0° C., propylene oxide (168 mg, 2.9 mmol) added dropwise and the mixture stirred at 0° C. for 30 minutes and then room temperature for 5 hours. The mixture was taken up and washed with ethyl acetate. The aqueous layer was acidified with aqueous HCl solution (1N) and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated to give pure 1-(naphthalen-1-yl)-1H-tetrazol-5-ol (420 mg, 90%).

reactant | sodium hydroxide | 2.9 mmol, 114 mg | [OH-].[Na+]
reactant | 1-(naphthalen-1-yl)-1H-tetrazole-5-thiol | 2.2 mmol, 490 mg | C1(=CC=CC2=CC=CC=C12)N1N=NN=C1S | C11H8N4S
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | propylene oxide | 2.9 mmol, 168 mg | C1C(C)O1 | C3H6O
solvent | water | 0.5 mL | O | H2O
product | 1-(naphthalen-1-yl)-1H-tetrazol-5-ol | 420 mg, 90% | C1(=CC=CC2=CC=CC=C12)N1N=NN=C1O | C11H8N4O
